US04518789
Synthesis of N-phenethyl phenyl-alpha-benzoxyacetamide
N-phenethyl mandelic amide 51 g is dissolved in 200 ml of pyridine, and benzoyl chloride 42 ml is added with stirring. Exothermic benzoylation takes place immediately and the reaction mixture is cooled externally with a cold water bath. The stirring is continued for 5 hours, and the reaction mixture is mixed with 1 liter of ice water. The product is extracted with 250 ml of chloroform, washed with 300 ml of 5% sodium bicarbonate, followed by 300 ml of 0.5N HCL and is dried over anhydrous sodium sulfate. On evaporation of chloroform a crystalline product is obtained. The crystals are washed with n-hexane and dried. The yield is 85 g.

reactant | N-phenethyl mandelic amide | 51 g | C(CC1=CC=CC=C1)NC(C(O)C1=CC=CC=C1)=O | C16H17NO2
reactant | benzoyl chloride | 42 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | N-phenethyl phenyl-alpha-benzoxyacetamide | C(CC1=CC=CC=C1)NC(C(OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C23H23NO2
